US06756372B2
(a) N,N-Diethyl carbamoyl thiocyanate
A suspension of sodium thiocyanate (3.30 g, 40.7 mmol) in dry acetonitrile (25 mL) at 80° C. was treated dropwise with a solution of N,N-diethyl carbamoyl chloride (5.0 g, 36.9 mmol) in dry acetonitrile (15 mL). The reaction mixture was stirred at 80° C. for 50 min, cooled to room temperature, then filtered through a fine glass frit. The resulting filtrate was used as a 0.9 M solution of N,N-diethyl carbamoyl thiocyanate in acetonitrile.

reactant | sodium thiocyanate | 40.7 mmol, 3.30 g | [S-]C#N.[Na+]
reactant | N,N-diethyl carbamoyl chloride | 36.9 mmol, 5.0 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | N,N-Diethyl carbamoyl thiocyanate | C(C)N(C(=O)SC#N)CC | C6H10N2OS
